US08242280B2
Step 3: Synthesis of 2-methoxy-2-{3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-N,N-dimethyl-acetamide
To a solution of methoxy-{3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-acetic acid, (100 mg, 0.19 mmol), dimethylamine (2 N in THF, 0.143 mL, 0.29 mmol), and diisopropylethylamine (37 mg, 0.29 mmol) in THF (2 mL) was added O-(7-azabenzotriazol-1-yl)-N,N,N′,N′,-tetramethyluronium hexafluorophosphate (110 mg, 0.29 mmol.). The resulting suspension was heated to 60° C. with stirring until all was dissolved. The solvent was evaporated and the residue was used in next step without purification. MS: m/z 547 (M+H+).

reactant | methoxy-{3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-acetic acid | 0.19 mmol, 100 mg | COC(C(=O)O)C1=CC(=CC=C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C | C28H33N3O5Si
reactant | dimethylamine | 0.29 mmol, 2 N, 0.143 mL | CNC | C2H7N
reactant | diisopropylethylamine | 0.29 mmol, 37 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′,-tetramethyluronium hexafluorophosphate | 0.29 mmol, 110 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-methoxy-2-{3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-N,N-dimethyl-acetamide | COC(C(=O)N(C)C)C1=CC(=CC=C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C | C30H38N4O4Si
